* Five-stage CMOS ring of IHP SG13G2 LV MOSFETs (main_5.sch).
* Wp/Wn matches sg13g2_inv_1. lch=0.555u targets ~500 MHz post-PEX.
* Port order: out VPWR VGND.
.subckt trosc5 out VPWR VGND lch=0.555u
Xp0 n1 out VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn0 n1 out VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
Xp1 n2 n1 VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn1 n2 n1 VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
Xp2 n3 n2 VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn2 n3 n2 VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
Xp3 n4 n3 VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn3 n4 n3 VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
Xp4 out n4 VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn4 out n4 VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
.ends trosc5
